US07241785B2
A mixture of methyl 3-[2-[N-methyl-N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]amino]-4-phenyl-5-thiazolyl]propionate (570 mg), 1N aqueous sodium hydroxide solution (2 ml), tetrahydrofuran (5 ml) and methanol (5 ml) was stirred at room temperature for 1 hr. The reaction mixture was poured into water, neutralized with 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The residue was dissolved in diethyl ether (40 ml) and 10% hydrochloric acid-methanol (0.5 ml) was added. The precipitated solid was collected by filtration and recrystallized from methanol-diethyl ether to give 3-[2-[N-methyl-N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]amino]-4-phenyl-5-thiazolyl]propionic acid hydrochloride (270 mg, yield 46%) as colorless crystals. melting point: 106–108° C.

reactant | methyl 3-[2-[N-methyl-N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]amino]-4-phenyl-5-thiazolyl]propionate | 570 mg | CN(CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C=1SC(=C(N1)C1=CC=CC=C1)CCC(=O)OC | C32H31N3O4S
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 3-[2-[N-methyl-N-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]amino]-4-phenyl-5-thiazolyl]propionic acid hydrochloride | 270 mg, yield 46% | Cl.CN(CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C=1SC(=C(N1)C1=CC=CC=C1)CCC(=O)O | InChI=1S/C31H29N3O4S.ClH/c1-21-26(32-30(38-21)24-11-7-4-8-12-24)20-37-25-15-13-22(14-16-25)19-34(2)31-33-29(23-9-5-3-6-10-23)27(39-31)17-18-28(35)36;/h3-16H,17-20H2,1-2H3,(H,35,36);1H
